US04001238
Ethyl 5-n-propylthio-1,3,4-oxadiazole-2-carboxylate
The title compound was prepared from ethyl 1,3,4-oxadiazole-2-thione-5-carboxylate potassium salt dimethylsulfoxide solvate (10 g., 28.5 mmole) and n-propyliodide (4.17 ml., 42.8 mmole) analogously to the procedure described in Experiment A. The yield was 4.99 g. (81%). The product had a B.P. of 108°-118° C. at 0.65 mm. of mercury.

reactant | ethyl 1,3,4-oxadiazole-2-thione-5-carboxylate potassium | [K].O1C(NN=C1C(=O)OCC)=S
reactant | n-propyliodide | 42.8 mmole, 4.17 ml | C(CC)I | C3H7I
catalyst | mercury | [Hg] | Hg
product | Ethyl 5-n-propylthio-1,3,4-oxadiazole-2-carboxylate | C(CC)SC1=NN=C(O1)C(=O)OCC | C8H12N2O3S
